### PR TITLE
[Merged by Bors] - refactor(LinearAlgebra/Projection): Use IsIdempotentElem

### PR DESCRIPTION
**Pull request by mans0954**
Use `IsIdempotentElem` in a number of locations instead of `? * ? = ?`.

- Algebra/Algebra/Subalgebra/Pointwise
- Algebra/Ring/BooleanRing
- LinearAlgebra/Projection
- RingTheory/DedekindDomain/Ideal

Other uses of `? * ? = ?` are not rings or have `to_additive`, which our current definition of `IsIdempotentElem` does not support.

My interest in opening this PR is `LinearAlgebra/Projection`. The others are perhaps more tenuous. I have made them individual commits so any not required can easily be reverted.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 1]
```diff
@@ -255,7 +255,10 @@ theorem isDedekindDomainInv_iff [Algebra A K] [IsFractionRing A K] :
 theorem FractionalIdeal.adjoinIntegral_eq_one_of_isUnit [Algebra A K] [IsFractionRing A K] (x : K)
     (hx : IsIntegral A x) (hI : IsUnit (adjoinIntegral A⁰ x hx)) : adjoinIntegral A⁰ x hx = 1 := by
   set I := adjoinIntegral A⁰ x hx
-  have mul_self : I * I = I := by apply coeToSubmodule_injective; simp [I]
+  have mul_self : IsIdempotentElem I := by
+    apply coeToSubmodule_injective;
+    simp [I]
+    rw [Subalgebra.mul_self (Algebra.adjoin A {x})]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:261]: You shouldn't have `rw` after unsqueezed `simp`

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 2]
```diff
@@ -255,7 +255,10 @@ theorem isDedekindDomainInv_iff [Algebra A K] [IsFractionRing A K] :
 theorem FractionalIdeal.adjoinIntegral_eq_one_of_isUnit [Algebra A K] [IsFractionRing A K] (x : K)
     (hx : IsIntegral A x) (hI : IsUnit (adjoinIntegral A⁰ x hx)) : adjoinIntegral A⁰ x hx = 1 := by
   set I := adjoinIntegral A⁰ x hx
-  have mul_self : I * I = I := by apply coeToSubmodule_injective; simp [I]
+  have mul_self : IsIdempotentElem I := by
+    apply coeToSubmodule_injective;
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:259]:
```suggestion
    apply coeToSubmodule_injective
```

File: Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean [hunk 3]
```diff
@@ -31,8 +31,7 @@ theorem mul_toSubmodule_le (S T : Subalgebra R A) :
 
 /-- As submodules, subalgebras are idempotent. -/
 @[simp]
-theorem mul_self (S : Subalgebra R A) : (Subalgebra.toSubmodule S) * (Subalgebra.toSubmodule S)
-    = (Subalgebra.toSubmodule S) := by
+theorem mul_self (S : Subalgebra R A) : IsIdempotentElem (Subalgebra.toSubmodule S) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean:34]: I think `mul_self` is no longer a good name

File: Mathlib/LinearAlgebra/Projection.lean [hunk 4]
```diff
@@ -367,12 +368,11 @@ structure IsProj {F : Type*} [FunLike F M M] (f : F) : Prop where
   map_mem : ∀ x, f x ∈ m
   map_id : ∀ x ∈ m, f x = x
 
-theorem isProj_iff_idempotent (f : M →ₗ[S] M) : (∃ p : Submodule S M, IsProj p f) ↔ f ∘ₗ f = f := by
+theorem isProj_iff_idempotent (f : M →ₗ[S] M) :
+    (∃ p : Submodule S M, IsProj p f) ↔ IsIdempotentElem f := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Projection.lean:372]: Probably now a better name is `isProj_iff_isIdempotentElem`

**Review by Ruben-VandeVelde — APPROVED** [review]
Seems like a reasonable idea

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:261]: Done, thanks.

File: Mathlib/LinearAlgebra/Projection.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/Projection.lean:372]: I've renamed it and added a deprecated alias.

File: Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean]: I've renamed `mul_self` to `isIdempotentElem_subalgebra` and added a deprecated alias.

File: Mathlib/Algebra/Ring/BooleanRing.lean [hunk 5]
```diff
@@ -8,6 +8,7 @@ import Mathlib.Tactic.Abel
 import Mathlib.Tactic.Ring
 import Mathlib.Order.Hom.Lattice
 import Mathlib.Algebra.Ring.Equiv
+import Mathlib.Algebra.Ring.Idempotents
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/BooleanRing.lean:11]: Can you merge master? This is now called
```suggestion
import Mathlib.Algebra.Ring.Idempotent
```

Comment (YaelDillies) [inline Mathlib/Algebra/Ring/BooleanRing.lean:11]: Can you merge master? This is now called
```suggestion
import Mathlib.Algebra.Ring.Idempotent
```

File: Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean [hunk 6]
```diff
@@ -31,15 +31,17 @@ theorem mul_toSubmodule_le (S T : Subalgebra R A) :
 
 /-- As submodules, subalgebras are idempotent. -/
 @[simp]
-theorem mul_self (S : Subalgebra R A) : (Subalgebra.toSubmodule S) * (Subalgebra.toSubmodule S)
-    = (Subalgebra.toSubmodule S) := by
+theorem isIdempotentElem_subalgebra (S : Subalgebra R A) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean:34]:
```suggestion
theorem isIdempotentElem_toSubmodule (S : Subalgebra R A) :
```

File: Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean [hunk 7]
```diff
@@ -31,15 +31,17 @@ theorem mul_toSubmodule_le (S T : Subalgebra R A) :
...
+    IsIdempotentElem (Subalgebra.toSubmodule S) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean:35]:
```suggestion
    IsIdempotentElem S.toSubmodule := by
```

File: Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean [hunk 8]
```diff
@@ -58,7 +60,8 @@ theorem mul_toSubmodule {R : Type*} {A : Type*} [CommSemiring R] [CommSemiring A
     exact Submodule.mul_mem_mul (show (1 : A) ∈ S from one_mem S) (algebraMap_mem T _)
   have := Submodule.mul_mem_mul hx hy
   rwa [mul_assoc, mul_comm _ (Subalgebra.toSubmodule T), ← mul_assoc _ _ (Subalgebra.toSubmodule S),
-    mul_self, mul_comm (Subalgebra.toSubmodule T), ← mul_assoc, mul_self] at this
+    isIdempotentElem_subalgebra, mul_comm (Subalgebra.toSubmodule T), ← mul_assoc,
```
Comment (YaelDillies) [inline Mathlib/Algebra/Algebra/Subalgebra/Pointwise.lean:63]:
```suggestion
    isIdempotentElem_subalgebra, mul_comm T.toSubmodule, ← mul_assoc,
```

File: Mathlib/Algebra/Ring/BooleanRing.lean [hunk 9]
```diff
@@ -46,7 +47,7 @@ variable {α β γ : Type*}
 /-- A Boolean ring is a ring where multiplication is idempotent. -/
 class BooleanRing (α) extends Ring α where
   /-- Multiplication in a boolean ring is idempotent. -/
-  mul_self : ∀ a : α, a * a = a
+  mul_self : ∀ a : α, IsIdempotentElem a
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/BooleanRing.lean:50]:
```suggestion
  isIdempotentElem (a : α) : IsIdempotentElem a
```
and it would be good to restore `mul_self` as a lemma with the statement it had before

File: Mathlib/Algebra/Ring/BooleanRing.lean [hunk 10]
```diff
@@ -53,6 +53,8 @@ namespace BooleanRing
 
 variable [BooleanRing α] (a b : α)
 
+lemma mul_self : a * a = a := IsIdempotentElem.eq (isIdempotentElem a)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Ring/BooleanRing.lean:56]:
```suggestion
@[scoped simp]
lemma mul_self : a * a = a := IsIdempotentElem.eq (isIdempotentElem a)
```
then you can remove L. 61

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
